US06110962
(R)-2-[4-(6-Benzyloxy-benzo[b]naphtho[2,3-d]thiophen-11-yl]-2,6-dibromo-phenoxyl-3-phenyl-propionic acid, methyl ester
To a solution of (R)-2-[4-(6-hydroxy-benzo[b]naphtho[2,3-d]thiophen-11-yl]-2,6-dibromo-phenoxy]-3-phenyl-propionic acid, methyl ester (0.50 g, 0.755 mmol) in dry N,N-dimethylformamide (5 mL) was added benzyl bromide (0.27 mL, 2.27 mmol, 3 eq) dropwise at room temperature under a dry nitrogen atmosphere. After stirring about 17 hours the reaction was quenched with water (50 mL) and the organics were extracted with ether. The extracts were washed with water, and brine and combined with silica gel. The solvent was removed and the adsorbate was flash chromatographed (97/3 petroleum ether/ethyl acetate) and the solvents chased with benzene and petroleum ether to provide the title compound as a pale yellow solid (0.572 g, 84%): NMR (CDCl3); δ8.30 (ddd, J=8, 1, 1 Hz, 1 H), 7.82 (ddd, J=8,1,1 Hz, 1 H), 7.68 (ddd, J=8, 1, 1 Hz, 2 H), 7.62 (dd, J=3, 2 Hz, 2 H), 7.60-7.55 (m, 2 H), 7.51-7.26 (m, 10 H), 7.16 (ddd, J=8, 7,1 Hz, 1 H), 6.81 (ddd, J=8, 1, Hz, 1 H), 5.34 (s, 2 H), 5.25 (dd, J=6, 2 Hz, 1 H), 3.76 (s, 3 H), 3.59 (septet, J =Hz, 2 H); MS (EI): [M+], 2 bromine isotope pattern, 750 (2%), 752 (3.5%), 754 (2.5%); Anal Calc. for C39H28Br2O4S: C, 62.25, H, 3.75, N, 0.00; Found C, 61.66, H, 3.53, N, 0.25.

reactant | (R)-2-[4-(6-hydroxy-benzo[b]naphtho[2,3-d]thiophen-11-yl]-2,6-dibromo-phenoxy]-3-phenyl-propionic acid, methyl ester | 0.755 mmol, 0.50 g | OC1=C2C=CC=CC2=C(C=2C3=C(SC21)C=CC=C3)C3=CC(=C(O[C@@H](C(=O)OC)CC2=CC=CC=C2)C(=C3)Br)Br | C32H22Br2O4S
reactant | benzyl bromide | 2.27 mmol, 0.27 mL, 3 eq | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-(6-Benzyloxy-benzo[b]naphtho[2,3-d]thiophen-11-yl]-2,6-dibromo-phenoxyl-3-phenyl-propionic acid, methyl ester | 0.572 g, 84% | C(C1=CC=CC=C1)OC1=C2C=CC=CC2=C(C=2C3=C(SC21)C=CC=C3)C3=CC(=C(OC(C(=O)OC)CC2=CC=CC=C2)C(=C3)Br)Br | C39H28Br2O4S
